US07425639B2
Stage 2(b) Preparation of N-Phenyl-3-iodoisonicotinamide
Into a 4-necked RBF equipped with an overhead stirrer and a J-Kem internal temperature probe was placed N-phenylisonicotinamide (35.1 g, 0.18 mol) and anhydrous THF (700 ml). All material appeared to go into solution. This mixture was cooled to −69° C. in a dry ice/IPA bath. To this was slowly added nBuLi (156 ml of a 2.5 M in Hexanes) in two portions. While adding the first equivalent of nBuLi, an exotherm was observed raising the temperature to approx. −41° C. The orange reaction mixture was slightly heterogeneous. This was allowed to slowly warm to 12° C. over 2 h. This mixture was re-cooled to −70° C. At this point, a THF solution (175 ml) of iodine (47.2 g, 0.19 mol) was added. This was allowed to warm and stirred at room temperature for 14 h. To this solution was added 150 ml of a saturated solution of potassium meta-bisulfite and diluted with CH2Cl2. The two layers were separated and the organic layer was extracted with brine. The two layers were separated and the organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give a black oil. This material was purified by SiO2 column chromatography using 40% ethyl acetate/Hexane as eluent. Concentration gave 38.6 g (67% th) of an off-white solid.

reactant | N-phenylisonicotinamide | 0.18 mol, 35.1 g | C1(=CC=CC=C1)NC(C1=CC=NC=C1)=O | C12H10N2O
reactant | nBuLi | [Li]CCCC
reactant | iodine | 0.19 mol, 47.2 g | II | I2
reactant | potassium meta-bisulfite | S(=O)(=O)([O-])S(=O)[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 175 ml | C1CCOC1 | C4H8O
solvent | THF | 700 ml | C1CCOC1 | C4H8O
product | N-Phenyl-3-iodoisonicotinamide | C1(=CC=CC=C1)NC(C1=C(C=NC=C1)I)=O | C12H9IN2O
